US07465738B2
2-methyl-5-nitro-1H-indole-3-carbaldehyde (375 mg, 1.84 mmol) and hydroxylamine hydrochloride (380 mg, 5.52 mmol) were suspended in formic acid (10 mL) and DMF (3 mL), and heated at 80° C. until the solution had turned dark orange (30 min). Quantitative conversion to the aldoxime intermediate was confirmed by LC/MS. 4 mL of acetic anhydride were added and heating was continued for 1 h. The reaction solution was diluted with cold water (20 mL), and the product extracted into EtOAc. The organic layer was washed with water (2×50 mL), brine (2×50 mL), dried over MgSO4, and filtered. The solvent was removed in vacuo to yield 2-methyl-5-nitro-1H-indole-3-carbonitrile as an ochre-colored solid (330 mg, 89% yield). Mass and purity were confirmed by LC/MS using an acetonitrile gradient with 0.035% TFA/water. Theoretical (M+H)+ m/z for C10H7N3O2=202.05; Found 202.2.

reactant | 2-methyl-5-nitro-1H-indole-3-carbaldehyde | 1.84 mmol, 375 mg | CC=1NC2=CC=C(C=C2C1C=O)[N+](=O)[O-] | C10H8N2O3
reactant | hydroxylamine hydrochloride | 5.52 mmol, 380 mg | Cl.NO
reactant | acetic anhydride | 4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 10 mL | C(=O)O | CH2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-methyl-5-nitro-1H-indole-3-carbonitrile | 330 mg, 89% yield | CC=1NC2=CC=C(C=C2C1C#N)[N+](=O)[O-] | C10H7N3O2
